US09169262B2
Preparation of Crystalline Asenapine Malonate Form I
511 mg Asenapine free base was dissolved in 1.0 ml 2-propanol and to this solution was added 186 mg of malonic acid (Fluka #63290) which was dissolved in 4 ml 2-propanol. The clear solution was seeded with 23 mg of crystalline malonate salt according to example 6 and stirring at r.t. was continued at room temperature until the next day (about 20 hours). The suspension was filtered, and after drying at room temperature for about 20 hours under vacuum about 640 mg of crystalline solid product was obtained. Investigation by powder X-ray diffraction showed that the same crystalline form as in example 6 was obtained.

reactant | Asenapine | 511 mg | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl | C17H16ClNO
reactant | malonic acid | 186 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | malonate | 23 mg | C(CC(=O)[O-])(=O)[O-]
solvent | 2-propanol | 1.0 ml | CC(C)O | C3H8O
solvent | 2-propanol | 4 ml | CC(C)O | C3H8O
product | Asenapine Malonate | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl.C(CC(=O)[O-])(=O)[O-] | InChI=1S/C17H16ClNO.C3H4O4/c1-19-9-14-12-4-2-3-5-16(12)20-17-7-6-11(18)8-13(17)15(14)10-19;4-2(5)1-3(6)7/h2-8,14-15H,9-10H2,1H3;1H2,(H,4,5)(H,6,7)/p-2
